US08114847B2
Amino-indole triphosphate was prepared from 5-nitro-indole triphosphate by hydrogenation reaction. The extinction coefficient for 5-amino-indole is 5830 M−1 cm−1 at 270 nm.

reactant | 5-nitro-indole triphosphate | OP(O)(=O)OP(=O)(O)OP(=O)(O)O.[N+](=O)([O-])C=1C=C2C=CNC2=CC1
reactant | 5-amino-indole | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | Amino-indole triphosphate | OP(O)(=O)OP(=O)(O)OP(=O)(O)O.NC=1NC2=CC=CC=C2C1 | InChI=1S/C8H8N2.H5O10P3/c9-8-5-6-3-1-2-4-7(6)10-8;1-11(2,3)9-13(7,8)10-12(4,5)6/h1-5,10H,9H2;(H,7,8)(H2,1,2,3)(H2,4,5,6)
